US08247429B2
N-{2-[(8S)-1-fluoro-2-methyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl]ethyl}acetamide
To a solution of N-{2-[(8S)-2-methyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl]ethyl}acetamide (1.01 g, 3.91 mmol) in acetonitrile (39.2 mL) was added xenon difluoride (728 mg, 4.30 mmol) under ice-cooling, and the mixture was stirred for 18 hr. The reaction solution was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane=50/50→100/0) and preparative TLC (methanol/ethyl acetate=10/90) to give the title compound (86.4 mg, yield 8.0%).

reactant | N-{2-[(8S)-2-methyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl]ethyl}acetamide | 3.91 mmol, 1.01 g | CN1N=C2C=CC3=C(C2=C1)[C@@H](CC3)CCNC(C)=O | C15H19N3O
reactant | xenon difluoride | 4.30 mmol, 728 mg | [Xe](F)F | F2Xe
solvent | acetonitrile | 39.2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{2-[(8S)-1-fluoro-2-methyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl]ethyl}acetamide | 86.4 mg, yield 8.0% | FC=1N(N=C2C=CC3=C(C12)[C@@H](CC3)CCNC(C)=O)C | C15H18FN3O
